Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abnormal uterine bleeding
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy, partial R salpingectomy

 
History of Present Illness:
h/o heavy periods, last 5 days of which ___ days are heavy 
accompanied by severe cramps. She will take whatever she can get 
hold for pain relief. Does not call into work but suffers those 
days. Changing pad every ___ hrs. Soaks through her clothes 
almost every month.  Has clots. These symptoms have been ongoing 
for a few yrs. 

 

Had a hysteroscopic myomectomy ___- small s/m myoma was 
resected. Pathology showed specimen 1.5 x 1.2 x 0.7 cm with 
fragments of submucosal leiomyoma, inactive endometrium, 
fragments of squamous mucosa, fragments of endocervical 
epithelium with acuter inflammation and squamous metaplasia.  
Did not have improvement in flow or cramps following the 
procedure. 

 

Suspected to have adenomyosis on imaging.

 

She has had TL. Not interested in hormonal options. Forgets to 
take pills.

 

Has not bee taking iron consistently. 

 

Of note: h/o neovascular glaucoma and no vision in left eye

 
 
Past Medical History:
Past Medical History: 

Diagnosis 

Date 

• 

Abnormal Pap smear of cervix 

  

• 

Depression 

  

• 

Glaucoma 

  

  

left eye since childhood. Blind in that eye 

• 

History of kidney stones 

  

• 

STI (sexually transmitted infection) 

  

• 

THERAPEUTIC ABORTION 

___ 

  

Converted Data 

 

    

Past Surgical History: 

Procedure 

Laterality 

Date 

• 

HYSTEROSCOPY - REMOVAL OF LEIOMYATA 

  

___ 

  

___ 

• 

STABISMUS SURG,TWO HORIZ MUSCLE 

  

___ 

  

lt 

• 

STABISMUS SURG,PLACE ADJUST SUTURE 

  

___ 

• 

TRABECULECTOMY W/ SCARRING FROM SURGERY / TRAUMA 

  

___ 

  

rt 

• 

LIGATE FALLOPIAN TUBES, ABD 

  

___ 

  

Tubal Ligation 

• 

EXPLOR EYE SOCKET,DRAINAGE 

  

___ 

 
Social History:
Substance Use Topics 

• 

Smoking status: 

Current Every Day Smoker 

  

  

Packs/day: 

___ 

  

  

Years: 

15.00 

  

  

Types: 

Cigarettes 

• 

Smokeless tobacco: 

Never Used 

  

  

  

Comment:                                          

• 

Alcohol use 

3.6 oz/week 

  

  

6 Standard drinks or equivalent per week 

  

  

  

Comment: sometimes has more than 3 drinks in one sitting- 
updated  ___ 

 
 
Family History:
Family history of problems with anesthesia, blood clotting 
disorders, pulmonary embolis or bleeding disorders denied.

 
 
Physical Exam:
PHYSICAL EXAM UPON PRESENTATION TO CLINIC:
There were no vitals taken for this visit.

  Estimated body mass index is 25.1 kg/(m^2) as calculated from 
the following:

  Height as of ___: 5' 5.25" (1.657 m).

  Weight as of ___: 152 lb (68.9 kg).

  Constitutional: well developed, well nourished female 

  Skin: no lesions

  Lymphatic: no cervical, supraclavicular, or inguinal 
adenopathy 

  Eyes: anicteric

  ENT: external ear normal 

  Thyroid: non-tender, not enlarged, no palpable mass

  Chest: clear to auscultation 

  Heart: regular rate, rhythm 

  Abdomen: Soft, NT, ND, no hepatosplenomagaly, no palpable 
masses, small umbilical inc

Pelvic: No inguinal ___

___ genitalia: normal and without any lesions; 

SE: vagina well epithelialized, no lesions. Cervix parous, no 
lesions observed. 

VE: No CMT. Uterus mobile, non-tender and bulky Adnexa: no 
masses or tenderness palpated.

Anus and perineum without any lesions.

Rectal: not indicated. 

Vaginal pH: 4.7

PHYSICAL EXAM ON DISCHARGE
Vitals: 98.8, 107 / 66, 70, 16, 99 RA 
I/Os: since midnight, IN 30 PO/ LR at 125 per hour overnight, 
OUT
300

Physical Exam:
Gen: well-appearing, NAD
Heart: RRR
Lungs: CTAB
Abdomen: soft, non-tender, non-distended
Ext: no edema, symmetric, non-tender
GU: pad with minimal spotting

 
Pertinent Results:
___ 05:13AM BLOOD WBC-13.9*# RBC-3.19* Hgb-8.8* Hct-27.3* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-16.1* RDWSD-51.0* Plt ___
___ 10:55AM BLOOD WBC-11.6* RBC-3.13* Hgb-8.7* Hct-27.1* 
MCV-87 MCH-27.8 MCHC-32.1 RDW-16.4* RDWSD-52.0* Plt ___
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology service after total 
vaginal hysterectomy for abnormal uterine bleeding. Please see 
the operative report for full details.

*)Postoperative course complicated by nausea/vomiting due to 
anesthesia effect
Immediately post-op, her pain was controlled with IV dilaudid 
and toradol. In the PACU, patient had nausea and one episode of 
emesis. She was admitted to the GYN service for further 
management of her nausea and emesis thought likely to be due to 
anesthesia effect given that symptoms resolved the next day. Her 
nausea and emesis were controlled with Zofran, Phenergan, and 
Ativan. Her nausea significantly improved and she no further 
episodes of emesis. On post-operative day 1, her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, and acetaminophen. 
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. Her postoperative nausea had 
resolved and she was tolerating a regular diet. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.

 
Medications on Admission:
dorzolamide
latanoprost
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal uterine bleeding 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___